US07273878B2
To 5 ml of N,N-dimethylformamide were dissolved 0.40 g (1.8 mmol) of 4,4-difluoro-3-methyl-3-butenyl methanesulfonate and 0.33 g (1.9 mmol) of benzo[b]thiophene-2-carboxylicacid, followed by the addition of 0.46 g (5.5 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 2 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentrating under reduced pressure. The residue was purified with silica gel column chromatography (diisopropyl ether:hexane=1:7) to obtain 0.48 g (yield: 93%) of 4,4-difluoro-3-methyl-3-butenyl benzo[b]thiophene-2-carboxylate.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 4,4-difluoro-3-methyl-3-butenyl methanesulfonate | 1.8 mmol, 0.40 g | CS(=O)(=O)OCCC(=C(F)F)C | C6H10F2O3S
reactant | benzo[b]thiophene-2-carboxylicacid | 1.9 mmol, 0.33 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | sodium hydrogencarbonate | 5.5 mmol, 0.46 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl benzo[b]thiophene-2-carboxylate | 0.48 g, yield: 93% | S1C2=C(C=C1C(=O)OCCC(=C(F)F)C)C=CC=C2 | C14H12F2O2S
